US08258141B2
Step 4: (R)—N-{(1S,2R,3S,4R)-4-[2-((R)-3-Amino-pyrrolidin-1-yl)-6-(2,2-diphenyl-ethylamino)-purin-9-yl]-2,3-dihydroxy-cyclopentyl}-2-benzyloxy-propionamide
A solution of {(R)-1-[9-[(1R,2S,3R,4S)-4-((R)-2-Benzyloxy-propionylamino)-2,3-dihydroxy-cyclopentyl]-6-(2,2-diphenyl-ethylamino)-9H-purin-2-yl]-pyrrolidin-3-yl}-carbamic acid tert-butyl ester in MeOH (˜0.5M) is treated with an equal volume of 4M HCl in dioxane and stirred at room temperature for 2 hours. The solvent is removed in vacuo and purification is carried out by column chromatography/crystallisation to afford the title compound.

reactant | {(R)-1-[9-[(1R,2S,3R,4S)-4-((R)-2-Benzyloxy-propionylamino)-2,3-dihydroxy-cyclopentyl]-6-(2,2-diphenyl-ethylamino)-9H-purin-2-yl]-pyrrolidin-3-yl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@H]1CN(CC1)C1=NC(=C2N=CN(C2=N1)[C@H]1[C@@H]([C@@H]([C@H](C1)NC([C@@H](C)OCC1=CC=CC=C1)=O)O)O)NCC(C1=CC=CC=C1)C1=CC=CC=C1)=O | C43H52N8O6
reactant | HCl | 4M | Cl | ClH
solvent | MeOH | ˜0.5M | CO | CH4O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (R)—N-{(1S,2R,3S,4R)-4-[2-((R)-3-Amino-pyrrolidin-1-yl)-6-(2,2-diphenyl-ethylamino)-purin-9-yl]-2,3-dihydroxy-cyclopentyl}-2-benzyloxy-propionamide | N[C@H]1CN(CC1)C1=NC(=C2N=CN(C2=N1)[C@H]1[C@@H]([C@@H]([C@H](C1)NC([C@@H](C)OCC1=CC=CC=C1)=O)O)O)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C38H44N8O4
